US04045568
3-Phenylpropionaldehyde (26.8 g.) is added under nitrogen to the ylide prepared from trimethylsulfoxonium iodide (48.4 g.) and sodium hydride (55% dispersion in oil; 9.6 g.) in dry dimethylsulfoxide (200 ml.), according to the procedure in Journal of the American Chemical Society, Vol. 84, page 867 (1962) and Vol. 87, page 1353 (1965). After one hour, the solution was poured into 1 liter of water and the product extracted with ether (3 × 300 ml.). The extract was washed with water (2 × 150 ml.) dried (MgSO4) and evaporated to give an oil, 1,2-epoxy-4-phenylbutane, used directly in the next step.

reactant | 3-Phenylpropionaldehyde | 26.8 g | C1(=CC=CC=C1)CCC=O | C9H10O
reactant | trimethylsulfoxonium iodide | 48.4 g | [I-].C[S+](=O)(C)C
reactant | sodium hydride | 9.6 g | [H-].[Na+]
reactant | water | 1 liter | O | H2O
solvent | dimethylsulfoxide | 200 ml | CS(=O)C | C2H6OS
product | 1,2-epoxy-4-phenylbutane | O1CC1CCC1=CC=CC=C1 | C10H12O
